US08242260B2
A mixture of the crude (S)-methyl 1-(4-(4-(3-amino-2-chloro-5-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (15.349 g), p-toluenesulfonic acid (3.64 g, 21.132 mmol) and methanol (70 mL) in a 100 mL, 3-necked round bottomed flask was heated at reflux for 1 hour. HPLC indicted completion of reaction. The reaction mixture was evaporated under vacuum and the residue was stirred with 2 N HCl (50 mL) and ethyl acetate (75 mL). The aqueous layer was separated and the organic layer was extracted once with 2 N HCl (40 mL). The combined aqueous layers were extracted once with ethyl acetate (50 mL) and then neutralized with aq NaOH (4 N). The product was extracted with 2×50 mL of ethyl acetate. The organic layer was washed once with water (40 mL), dried over MgSO4 and evaporated under vacuum to give 5.136 g (11.190 mmol) of crude (S)-methyl 1-(4-(4-(3-amino-2-chloro-5-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate as a brown oil.

reactant | (S)-methyl 1-(4-(4-(3-amino-2-chloro-5-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 15.349 g | NC=1C(=C(C=C(C1)F)C=1N=C(N(C1C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O)COCC[Si](C)(C)C)C1CC1)Cl | C27H37ClFN7O3Si
reactant | p-toluenesulfonic acid | 21.132 mmol, 3.64 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 70 mL | CO | CH4O
product | (S)-methyl 1-(4-(4-(3-amino-2-chloro-5-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 11.190 mmol, 5.136 g | NC=1C(=C(C=C(C1)F)C=1N=C(NC1C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O)C1CC1)Cl | C21H23ClFN7O2
